US06620977B1
Sodium hydride (2.11 g, 52.7 mmol, 60% in oil) was loaded under argon circumstance in three-necked flask and hexane (30 ml) was added thereto. After stirring for a while, it was allowed to stand and the supernatant was removed by syringe. By repeating this procedure three times, the oil of sodium hydride was removed. After drying in vacuo anhydrous dimethyl sulfoxide (DMSO) (10 ml) was added and the solution was stirred at 60° C. for 1 hour. After cooling to room temperature, (S)-4-tert-butyldimethylsilyloxy-1-trityloxy-2-butanol (20.36 g, 44.0 mol) in DMSO (12 ml) was gradually dropped at room temperature to the solution and then the solution was stirred for 30 minutes. To the solution was gradually dropped 2-tert-butyldimethylsilyloxyethyl methanesulfonate (12.28 g, 48.3 mol) in DMSO (12 ml) at room temperature and then the solution was stirred for 12 hours. To the reaction mixture was added water (40 ml) and the solution was extracted with ethyl acetate. The extract was washed with water (50 ml) twice and with saturated brine once, dried on sodium sulfate, filtered and condensed in vacuo. The residue was subjected to silica gel chromatography to give (S)-4-tert-butyldimethylsilyloxy-2-(2-tert-butyldimethylsilyloxyethoxy)-1-trityloxybutane (11.2 g, yield 55%).

reactant | Sodium hydride | 52.7 mmol, 2.11 g | [H-].[Na+]
reactant | hexane | 30 ml | CCCCCC | C6H14
reactant | (S)-4-tert-butyldimethylsilyloxy-1-trityloxy-2-butanol | 44.0 mol, 20.36 g | [Si](C)(C)(C(C)(C)C)OCC[C@@H](COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)O | C29H38O3Si
reactant | 2-tert-butyldimethylsilyloxyethyl methanesulfonate | 48.3 mol, 12.28 g | CS(=O)(=O)OCCO[Si](C)(C)C(C)(C)C | C9H22O4SSi
solvent | DMSO | 12 ml | CS(=O)C | C2H6OS
solvent | DMSO | 12 ml | CS(=O)C | C2H6OS
solvent | water | 40 ml | O | H2O
product | (S)-4-tert-butyldimethylsilyloxy-2-(2-tert-butyldimethylsilyloxyethoxy)-1-trityloxybutane | 11.2 g, yield 55% | [Si](C)(C)(C(C)(C)C)OCC[C@@H](COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)OCCO[Si](C)(C)C(C)(C)C | C37H56O4Si2
